US08835420B2
Preparation x12: (S)-2-Chloro-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate (100 mg, 0.271 mmol), 2,4-dichloropyrimidine-5-carbonitrile (70.7 mg, 0.406 mmol) and N-ethyl-N-isopropylpropan-2-amine (146 μL, 0.812 mmol) were combined in acetonitrile (1725 μL), and the resulting mixture was heated to 120° C. in a microwave reactor for 1 hour. The mixture was concentrated and purified on a silica gel column, eluting with EtOAc. The fractions were collected and concentrated in vacuo to give the title compound as a yellow solid (30 mg, 28%). ESI-MS m/z [M+H]+ calc'd for C19H17ClN8, 393.13; found 393.3.

reactant | (S)-1-(1-Methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethanamine 2,2,2-trifluoroacetate | 0.271 mmol, 100 mg | FC(C(=O)O)(F)F.CN1C=CC2=NC(=C(C=C21)C2=CC=NN2C)[C@H](C)N
reactant | 2,4-dichloropyrimidine-5-carbonitrile | 0.406 mmol, 70.7 mg | ClC1=NC=C(C(=N1)Cl)C#N | C5HCl2N3
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.812 mmol, 146 μL | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 1725 μL | C(C)#N | C2H3N
product | (S)-2-Chloro-4-((1-(1-methyl-6-(1-methyl-1H-pyrazol-5-yl)-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 30 mg, 28% | ClC1=NC=C(C(=N1)N[C@@H](C)C1=C(C=C2C(=N1)C=CN2C)C2=CC=NN2C)C#N | C19H17ClN8
